US09334290B2
A mixture of 4-bromo-7-(2-hydroxypropan-2-yl)-9H-carbazole-1-carboxamide [synthesized according to the procedure described in U.S. Pat. No. 8,084,620, Example 73-2] (2.00 g, 5.76 mmol), N-iodosuccinimide (1.69 g, 7.49 mmol), and pyridine (1.9 mL, 23.0 mmol) in DMF (20 mL) was heated at 65° C. for 2 days. The cooled mixture was diluted with EtOAc, washed twice with 10% aqueous LiCl and then with brine. The aqueous layers were extracted with EtOAc. The combined organic layers were dried and concentrated, and the residue was purified by column chromatography on silica gel, eluting with EtOAc-hexanes (gradient from 50%-65%), to provide 4-bromo-7-(2-hydroxypropan-2-yl)-3-iodo-9H-carbazole-1-carboxamide as a yellow solid (0.609 g, 23% yield). Mass spectrum m/z 473, 475 (M+H—H2O)+. 1H NMR (500 MHz, DMSO-d6) δ 11.66 (s, 1H), 8.49 (d, J=8.6 Hz, 1H), 8.38 (s, 1H), 8.26 (br. s., 1H), 7.94 (d, J=1.1 Hz, 1H), 7.58 (br. s., 1H), 7.40 (dd, J=8.6, 1.4 Hz, 1H), 5.09 (s, 1H), and 1.51 (s, 6H).

reactant | 4-bromo-7-(2-hydroxypropan-2-yl)-9H-carbazole-1-carboxamide | BrC1=CC=C(C=2NC3=CC(=CC=C3C12)C(C)(C)O)C(=O)N | C16H15BrN2O2
reactant | N-iodosuccinimide | 7.49 mmol, 1.69 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | pyridine | 23.0 mmol, 1.9 mL | N1=CC=CC=C1 | C5H5N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-bromo-7-(2-hydroxypropan-2-yl)-3-iodo-9H-carbazole-1-carboxamide | 0.609 g, 23% yield | BrC1=C(C=C(C=2NC3=CC(=CC=C3C12)C(C)(C)O)C(=O)N)I | C16H14BrIN2O2
